US08975400B2
E5: 7-((4-(4-chloro-3-(trifluoromethyl)phenoxy)benzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
The title compound was prepared by a procedure similar to those described for E1 starting from 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one and (4-(4-chloro-3-(trifluoromethyl)phenoxy)phenyl)methanol.

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | (4-(4-chloro-3-(trifluoromethyl)phenoxy)phenyl)methanol | ClC1=C(C=C(OC2=CC=C(C=C2)CO)C=C1)C(F)(F)F | C14H10ClF3O2
product | 7-((4-(4-chloro-3-(trifluoromethyl)phenoxy)benzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | ClC1=C(C=C(OC2=CC=C(COC=3C=C4N(C(N3)=O)CCN4C)C=C2)C=C1)C(F)(F)F | C21H17ClF3N3O3
